US04193921
1.8 ml. of 3,4-dihydro-2H-pyran and 20 mg of anhydrous p-toluenesulphonic acid were added to a solution of 2.45 g of (20S)-1α,2α-epoxy-21-hydroxy-20-methyl-pregna-4,6-dien-3-one in 125 ml. of absolute benzene. After standing at room temperature for 1 hour, the solution was diluted with ether, washed with saturated sodium bicarbonate solution and water, dried over sodium sulphate and concentrated in a water-jet vacuum. The residue was chromatographed on 30 g of silica gel using hexane/ether (4:1) for the elution, there being obtained 2.0 g (65%) of (20S)-1α,2α-epoxy-20-methyl-21-tetrahydropyranyloxy-pregna-4,6-dien-3-one. After recrystallisation from hexane, the product melted at 101°-102° C. and was shown by thin-layer chromatography, mixed melting point and IR spectrum to be identical with the compound prepared as described in Example 7.

reactant | 3,4-dihydro-2H-pyran | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | (20S)-1α,2α-epoxy-21-hydroxy-20-methyl-pregna-4,6-dien-3-one | 2.45 g | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C22H30O3
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | (20S)-1α,2α-epoxy-20-methyl-21-tetrahydropyranyloxy-pregna-4,6-dien-3-one | 2.0 g, 65% | O1[C@H]2[C@@H]1C(C=C1C=C[C@H]3[C@@H]4CC[C@H]([C@@H](COC5OCCCC5)C)[C@]4(CC[C@@H]3[C@@]21C)C)=O | C27H38O4
